Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
vision changes
 
Major Surgical or Invasive Procedure:
 
History of Present Illness:
NEUROLOGY STROKE ADMISSION
==========================

___ Stroke Scale Score: 1

t-PA administered: 
[x] No - Reason t-PA was not given or considered: LKW>24hrs,
NIHSS1

Thrombectomy performed:  
[x] No - Reason not performed or considered: LKW>24 hrs, NIHSS1

NIHSS performed within 6 hours of presentation at: 0444, ___ 
NIHSS Total: 1
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 1
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
REASON FOR CONSULTATION: abnormal outside hospital CTA, 
headache,
visual changes
 
HPI: 
===

This is a ___ year old woman with a history of right CEA (~ ___
years ago) not on any medications, migraines ___ car accident
several years ago, diverticulitis s/p resection (~ ___ years ago),
hip arthritis who presents as OSH transfer for abnormal CT.
History obtained by patient and per chart review.

The patient reports that she was in her usual state of health up
until ___ days ago, when she began to feel "off." She noticed
significant visual disturbances throughout the past few days,
which is not atypical for her migraines and initially thought 
she
was having a migraine. However, her visual changes were 
different
this time as they were not as transient and they were more
confined to her right upper visual field. She also notes that
what she sees is slightly different than the typical squiggles,
noting that she just sees a shadow. This was accompanied by a
bifrontal headache without positional components. She had no
double vision or blurry vision nor did she suffer speech 
changes.
She does note that overall she felt weaker but without any
focality to her weakness, continuing to say that she "just felt
different" and did not even feel up to driving to her daughter's
house as was planned. She notes that she did not have the energy
to go to work. She thought she was having a prolonged migraine,
but her symptoms continued to persist. As such she decided to
present for further workup.

Regarding prior migraine history, she notes that her migraines
started after a car accident several years ago. She typically
sees ___ min of squiggles in both visual fields. This 
sometimes
progresses to a headache. Frequency is ___ times a month. She 
has
also been seeing a chiropractor for neck pain and has been
getting manipulations. She notes that initially this helped her
migraines but in this past week, it seems that her migraines and
visual changes were worse after (or in spite of) chiropractor
manipulation.

Regarding prior CEA, patient notes that she stopped taking
statins due to myalgias. She does not like to take any medicine
and instead treats pain and general inflammation with CBD
tinctures.

ROS: 
notable for above findings, otherwise non-contributory

 
Past Medical History:
s/p right CEA ~ ___ years ago
diverticulitis s/p resection ~ ___ years ago
right hip pain
car accident complicated by migraines ever since
migraines (visual aura with spots and squiggly lines, sometimes
accompanied by headaches)
 
Social History:
No tobacco (quit ___ years ago), formerly 1 pack a day
- no alcohol
- uses CBD
- works as ___ and works for ___            


- Modified ___ Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Mother with 2 strokes
No history of seizures
 
Physical Exam:
On Admission:
=============
Vitals: T98.3, HR89, BP130-160/80, 16, 96RA

General: Awake, cooperative, obese, well-groomed
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: trace bipedal edema
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves: PERRL 5 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. Right homonymous quadrantonopsia. 
Fundoscopic exam revealed right > left exudates. Facial 
sensation
intact. Facial musculature symmetric. 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5   *4   5    5    5   5    5    5
*giveway secondary to right hip pain

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. No extinction to DSS.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred pending CTA and hallway exam with complications
due to ongoing triggers in hallways nearby. 

 
Pertinent Results:
MRI Head ___
IMPRESSION:
1. Subacute infarcts involving the L left thalamus, lateral 
geniculate, medial
left temporal lobe and left occipital lobes.  No hemorrhage.
2. 1.1 x 1.1 well-defined lesion in the superficial lobe of the 
left parotid
gland may represent a lymph node; however, a neoplastic process 
such as a
pleomorphic adenoma would have similar imaging characteristics. 
Ultrasonography and histopathologic correlation is recommended.

CTA H/N ___:
IMPRESSION:
1. Focal hypodensity involving the left medial temporal 
occipital lobes,
consistent with a subacute infarct.  No hemorrhage.
2. Normal CTA of the head.
3. 0% right and 70% left narrowing of the ICAs, by NASCET 
criteria.
4. 1.1 cm hyperdense well-defined lesion in the superficial lobe 
of left
parotid gland may represent a lymph node.  However, neoplastic 
etiology such
as a pleomorphic adenoma are not excluded.  Further evaluation 
with an
ultrasound and histopathologic correlation recommended.
 
TTE ___:
Quantitative 3D volumetric left ventricular ejection fraction is 
56 %. IMPRESSION: No structural cardiac source of embolism 
(e.g.patent foramen ovale/atrial septal defect, intracardiac 
thrombus, or vegetation) seen. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function. 
Increased PCWP. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of right 
CEA several years ago, migraines, familial hypercholesterolemia 
(per patient) who initially presented to OSH for ongoing 
headache and persistent visual changes that were slightly 
different from her typical migraines. ___ demonstrated 
abnormal lucency of the left mesial temporal lobe with sulcal 
effacement. CTA demonstrated focal hypodensity involving the 
left medial temporal occipital lobes and left 70% ICA narrowing. 
MRI with subacute infarcts involving the left left thalamus, 
lateral geniculate, medial left temporal lobe and left occipital 
lobes, no hemorrhage. Initially there was concern for possible 
left fetal type PCA and concern that there could be a 
symptomatic ICA stenosis that may have led to an embolus 
traveling down the left PCA to the left mesial temporal lobe. On 
further review with Dr. ___ of ___ 
Neurosurgery, this was considered to be most likely venous 
contamination rather than a fetal type left PCA. Etiology is 
unclear but possibilities include occult atrial fibrillation, in 
situ thrombosis in the left PCA, or possibly artery to artery 
embolism in setting of severe hyperlipidemia. TTE EF 56% no 
embolus, TEE also did not show an embolic source. Risk factors 
were notable for LDL 222, cholesterol 297, HgA1C 5.7. Initiated 
atorvastatin 80 mg daily, aspirin 81 mg daily. At time of 
discharge, exam notable only for right superior homonymous 
quadrantonopsia. Counseled to not drive until optho follow-up.

TRANSITIONAL ISSUES
===================
[] f/u hypercoagulability panel pending at discharge 
(BETA-2-GLYCOPROTEIN, CARDIOLIPIN)
[] consider parotid ultrasound, as MRI and CTA with 1.1 x 1.1 
well-defined lesion in the superficial lobe of the left parotid 
gland, may represent lymph node versus neoplastic process such 
as a pleomorphic adenoma
[] ___ of hearts ordered as outpatient
[] please perform formal visual testing at discharge and again 
at 6 months
[] patient may benefit from prism glasses due to right visual 
field deficit 
[] patient counseled not to drive until optho follow-up
[] consider consultation with nutritionist and lipid specialist 
re familial hypercholesterolemia

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =296 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (patient at baseline functional 
status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
CBD oil ___ drops daily
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Acute Ischemic Stroke
#hyperlipidemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear  Ms. ___,  

You were hospitalized due to symptoms of vision changes 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 1) high cholesterol

We are changing your medications as follows:  
 1) START a gentle blood thinning medication (aspirin 81 mg 
daily)
 2) START a cholesterol lowering medication (atorvastatin 80 mg 
in evening)

Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
and neuro ophthalmology as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___